US07326791B2
rac.-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(thiazolidin-3-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 2-chloro-4-{N-[1-(5-chloro-1H-benzimidazol-2yl)ethyl]aminocarbonyl}benzoic acid, TBTU, diisopropylethylamine, and thiazolidine in tetrahydrofuran. Yield: 67%; Rf value: 0.50 (silica gel; dichloromethane/ethanol=9:1); C20H18Cl2N4O2S (449.36); mass spectrum: (M+H)+=449/451/453 (chlorine isotope).

reactant | 2-chloro-4-{N-[1-(5-chloro-1H-benzimidazol-2yl)ethyl]aminocarbonyl}benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)C(=O)NC(C)C1=NC2=C(N1)C=CC(=C2)Cl | C17H13Cl2N3O3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | thiazolidine | S1CNCC1 | C3H7NS
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | rac.-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(thiazolidin-3-ylcarbonyl)benzamide | Yield: 67% | ClC=1C=C(C(=O)NC(C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1CSCC1 | C20H18Cl2N4O2S
